US04066664
When an equivalent amount of 2.2-tetramethylene-5-phenyl-1.3-dioxane-4.6-dione prepared in the example 3 is substituted for 2.2-dimethyl-5-phenyl-1.3-dioxane-4.6-dione and the reaction with 6-aminopenicillanic acid is carried out as disclosed in the example 1, 6-(α-carboxy-α-phenylacetamido)penicillanic acid (carbenicillin) is obtained.

reactant | 2.2-dimethyl-5-phenyl-1.3-dioxane-4.6-dione | CC1(OC(C(C(O1)=O)C1=CC=CC=C1)=O)C | C12H12O4
reactant | 6-aminopenicillanic acid | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
product | carbenicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)C(C=3C=CC=CC3)C(=O)O)C(=O)O)C | C17H18N2O6S
